US04407814
A solution of 8.00 g. of N-[(3-trifluoromethyl-4-chloro-phenyl)-carbamoyl]-2-methylalanine methyl ester in 20 ml. of 6-N aqueous hydrochloric acid and 20 ml. of acetone are warmed on a steam bath for 2 hours and the mixture is then concentrated. The product which has precipitated is first recrystallized from methylene chloride and then from methylene chloride/petroleum ether. After drying under greatly reduced pressure at 50° for 20 hours, 3-(3-trifluoromethyl-4-chloro-phenyl)-5,5-dimethylhydantoin of melting point 152°-153° is obtained.

reactant | N-[(3-trifluoromethyl-4-chloro-phenyl)-carbamoyl]-2-methylalanine methyl ester | COC(C(NC(NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O)(C)C)=O | C13H14ClF3N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 3-(3-trifluoromethyl-4-chloro-phenyl)-5,5-dimethylhydantoin | FC(C=1C=C(C=CC1Cl)N1C(NC(C1=O)(C)C)=O)(F)F | C12H10ClF3N2O2
